US06339154B1
(1) 1-(4-Benzylpiperazino)-3-(2-hydroxyphenyl)-1-propanone
1-Benzylpiperazine (2.38 g) was added to 3,4-dihydrocoumarine (2.00 g) and stirred for 3 hours at 90° C., thereby yielding the entitled compound (4.77 g) as pale brown syrup.

reactant | 1-Benzylpiperazine | 2.38 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 3,4-dihydrocoumarine | 2.00 g | O1C(=O)CCC2=CC=CC=C12 | C9H8O2
product | 1-(4-Benzylpiperazino)-3-(2-hydroxyphenyl)-1-propanone | 4.77 g | C(C1=CC=CC=C1)N1CCN(CC1)C(CCC1=C(C=CC=C1)O)=O | C20H24N2O2
